US07855285B2
The sodium salt of 6-(2-butylimidazol-1-yl)-2-chloropurine (0.139 g, 0.5 mmol) in dried CH3CN (10 mL) was treated with 2-deoxy-3,5-di-O-(p-toluoyl)-α-D-erythro-pentofuranosyl chloride (0.334 g, 0.86 mmol) in CH2Cl2 (10 mL) by general method 2. Sampling of the reaction mixture showed traces of α-nucleoside by 1H NMR (500 MHz) (1:24). Volatiles were evaporated in vacuo, and the residue was chromatographed (25 g silica gel, EtOAc/hexanes, 3:7→EtOAc) to give the β-anomer (274 mg, 86%) with traces of the α-anomer. Recrystallization (EtOAc/hexanes) gave 6-(2-butylimidazol-1-yl)-2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]purine: UV (MeOH) max 223, 241, 287 nm (∈ 29 900, 33 400, 13 200), min 230, 265 nm (∈ 28 100, 7500); 1H NMR (500 MHz, CDCl3) δ 8.51 (s, 1H), 8.26 (s, 1H), 7.98 (d, J=8.0 Hz, 2H), 7.84 (d, J=8.0 Hz, 2H), 7.30 (d, J=8.0 Hz, 2H), 7.19 (d, J=8.0 Hz, 2H), 7.09 (s, 1H), 6.60 (t, J=6.9 Hz, 1H), 5.80 (br s, 1H), 4.78-4.81 (m, 1H), 4.66-4.70 (m, 2H), 3.31 (t, J=7.8 Hz, 2H), 2.97-3.00 (m, 2H), 2.46 (s, 3H), 2.37 (s, 3H), 1.80 (quint, J=7.4 Hz, 2H), 1.50 (sext, J=7.4 Hz, 2H), 0.97 (t, J=7.5 Hz, 3H); 13C NMR (125 MHz, CDCl3) δ 166.05, 165.98, 154.13, 153.17, 151.43, 147.92, 144.71, 144.39, 142.18, 129.87, 129.53, 129.35, 129.31, 128.91, 126.38, 126.20, 122.70, 120.33, 85.20, 83.57, 74.94, 63.87, 38.61, 30.70, 30.07, 22.64, 21.79, 21.66, 13.91; HRMS 771/z 629.2270 (MH+[C33H34ClN6O5=629.2279]).

reactant | sodium | [Na] | Na
reactant | 6-(2-butylimidazol-1-yl)-2-chloropurine | 0.5 mmol, 0.139 g | C(CCC)C=1N(C=CN1)C1=C2NC=NC2=NC(=N1)Cl | C12H13ClN6
reactant | 2-deoxy-3,5-di-O-(p-toluoyl)-α-D-erythro-pentofuranosyl chloride | 0.86 mmol, 0.334 g | C1(=CC=C(C=C1)C(=O)O[C@H]1C[C@H](O[C@@H]1COC(=O)C1=CC=C(C=C1)C)Cl)C | C21H21ClO5
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-(2-butylimidazol-1-yl)-2-chloro-9-[2-deoxy-3,5-di-O-(p-toluoyl)-β-D-erythro-pentofuranosyl]purine | C(CCC)C=1N(C=CN1)C1=C2N=CN(C2=NC(=N1)Cl)[C@H]1C[C@H](OC(=O)C2=CC=C(C=C2)C)[C@H](O1)COC(=O)C1=CC=C(C=C1)C | C33H33ClN6O5
